US05935952
In 5 ml of toluene was suspended 0.25 g of ethyl 7-bromo-1-cyclopropyl-6-fluoro-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylate, and to this suspension were added 0.55 g of 2-(p-toluenesulfonyl)-5-tributylstannylisoindoline and 0.09 g of bis(triphenylphosphine)palladium (II) chloride, after which the resulting mixture was heated under reflux for eight hours under an argon stream. The reaction mixture was concentrated under reduced pressure, and the residue obtained was purified by a column chromatography (eluent: chloroform), after which diethyl ether was added thereto. The crystals formed were collected by filtration to obtain 0.19 g of colorless, crystalline ethyl 1-cyclopropyl-6-fluoro-8-methoxy-7-[2-(p-toluenesulfonyl)isoindolin-5-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylate.

reactant | ethyl 7-bromo-1-cyclopropyl-6-fluoro-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.25 g | BrC1=C(C=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)OCC)=O)F | C16H15BrFNO4
reactant | 2-(p-toluenesulfonyl)-5-tributylstannylisoindoline | 0.55 g | C1(=CC=C(C=C1)S(=O)(=O)N1CC2=CC=C(C=C2C1)[Sn](CCCC)(CCCC)CCCC)C
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.09 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | ethyl 1-cyclopropyl-6-fluoro-8-methoxy-7-[2-(p-toluenesulfonyl)isoindolin-5-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylate | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)C=1C=C2CN(CC2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)F)=O)C(=O)OCC | C31H29FN2O6S
